Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I tried to commit suicide today"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ accept note dated ___:

Per Dr. ___ ED Initial Psychiatry Consult 
note:

"Ms. ___ is a ___ year old female w/ GAD, depression, 
anorexia, and self-reported diagnosis of borderline personality 
disorder brought in by ambulance following suicide attempt via 
consumption of ___ pills of Trazodone 50mg earlier today in 
setting of worsening sense of hopelessness and increasing
frequency of suicidal ideation."
.
Ms. ___ reports worsening depressive symptoms most 
predominantly feelings of worthlessness, difficulty staying 
asleep, low mood, decreased energy, poor motivation, loss of 
concentration and intermittent thoughts of suicidal ideation 
worsening acutely since last ___ in to college at 
___. Per patient report, she has also had increasing anxiety 
regarding class burden and social interaction, including 
increasing frequency of "panic attacks" or episodes of heart 
racing, shortness of breath, intense fear lasting for ___ 
minutes followed by fatigue. This morning was the first day of 
classes at ___. Patient attended her 08:00 AM class successfully 
and then returned to her dorm to have a conference call/meeting 
with her therapist. She reported feeling intense anxiety 
following the class and acute worsening of her depressive 
symptoms which was not ameliorated by her discussion with her 
therapist. Ms. ___ proceeded to end her conversation with 
her therapist prematurely and felt an overwhelming sense of 
hopelessness that she would never escape these feelings of 
anxiety. Patient reports that she proceeded to ingest ___ 
pills of her Trazodone with intention of "going to sleep and not 
waking up." She states that following this her therapist called 
her father who arrived shortly before the ambulance. She reports 
vomiting multiple times and but does not express regret 
regarding her decision. She states that this is her first 
suicide attempt but reports that in ___ she poured multiple 
pills of trazadone in her hand but did not ingest them at this 
point in time. Patient reports that she has had suicidal 
ideation multiple times per day for the last several days 
acutely worsening today with specific plan to overdose. She 
states that she also thought about cutting her wrists and 
bleeding out. Previous to the event today, patient reports 
feelings of emptiness, fatigue, and feeling like the "day is 
dragging." She cites her bed as her only sense of relief from 
the anxiety and stress of the day. Patient endorses ongoing
feelings of hopelessness and helplessness following this attempt 
and states that she continues to feel like a burden to friends 
and family.  
.
COLLATERAL
EMS run report: 
___ female.. admits to ingestion of her own Trazadone 50 mg tab. 
less than (2)hr prior.. and admits to having " 15 pills.. 
Patient admits to being stressed in her new freshman ___ 
environment.. but otherwise was cooperative and in no acute 
distress."
.
PARENTS at bedside:
Patients mother reports that patient has struggled with anxiety, 
and depression for many years and more recently with restrictive 
eating resulting in multiple partial hospitalizations and 
inpatient hospitalization at ___. Mother reports that patient 
was living at home with parents since withdrawing from school 
after completion of the first semester of college last year. 
Patient was hopeful that she return to college and was accepted 
as a transfer to ___ for this semester. Over the course of the 
___ patient has been working with therapist and psychiatrist 
to have a plan for return to school. Since patient moved in to 
___ on ___ mother has been back and forth visiting patient 
on a daily basis. Today was the first day of classes and mother 
spoke with patient on phone prior to her attending her 0800 am 
class. Patient had an online video appointment with therapist 
following first class. Patient's father received a call from 
daughter at approximately 11AM stating that she needed him to 
come to her dorm but patient did not provide details. Patient's 
therapist called father and therapist also alerted ___ police who 
were at scene when father arrived. Patient was awake, vomited 
several times and continued to do so on way to the hospital. 
Parents are concerned for patient's safety at home. Report that 
patient has expressed suicidal ideation in past but has never 
acted on these thoughts until now. Parent's do not feel safe 
taking daughter home and believe inpatient level of care is best 
for patient at this time." 
.
In the ED patient was calm and cooperative. Sleeping 
intermittently with parents at bedside. Received dinner, ate 
sparingly.
.
On interview on the unit patient appeared visibly anxious but 
was calm and cooperative. Endorsed ongoing anxiety but also a 
desire to go to bed for the evening. Reported persistence of 
poor mood, feelings of hopelessness, thoughts of death without 
active plan at this time. Patient confirmed that she received 
evening meds (aripiprazole and buspar) in the ED this evening. 
REVIEW OF SYSTEMS:
=PSYCHIATRIC
 -Positive per HPI
+avoidance of social situations
+panic attacks
 -Denies the following:
psychomotor agitation/retardation, delusions, thought 
broadcasting/insertion, hallucinations, elevated mood, increased 
activity/energy, decreased need for sleep, grandiosity, 
increased speech, social/economic indiscretion   
=MEDICAL
 -Pertinent Positives:
 -Denies:
fever, HA, visual changes, chest pain, SOB, nausea, vomiting, 
constipation, diarrhea, rashes, joint pain, dysuria
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Per Dr. ___ ED Initial Psychiatry 
Consult note with revision/supplementation as provided per 
history at time of admission to unit.
- Past diagnoses:
     Borderline PD (___)
     Anorexia (___)
     Depression ___ yo)
     GAD ___ yo Social Anxiety --> GAD ___ yo)
- Hospitalizations:
     ___ years - Suicidal ideation (Arbour HRI)
          2 week inpatient stay
     Partial program at ___ ___
     ___ ___- Suicidal ideation
     ___ ___- Suicidal ideation
     Partial Program ___ --> Inpatient ___ for eating d/o
          1 week. 
- Psychiatrist & Therapist:
     ___ MD (___) 
     ___ (___ in ___
- Medication and ECT trials (reason for d/c if known):
     Effexor
     Citalopram
     Zoloft 
- Self-injury/Suicide attempts:
     Middle School
     Couple Months ago 
- Trauma: denies
.
PAST MEDICAL HISTORY:
-denies chronic medical conditions
-denies hx of seizure or head trauma
 
Social History:
SOCIAL HISTORY:
Per Dr. ___ ED Initial Psychiatry 
Consult note with revision/supplementation as provided per 
history at time of admission to unit.
.
___ for one semester until depression and anxiety 
prevented patient from continuing. Was able to make it to class 
initially but struggled academically, receiving C's. Transferred 
to ___ for this academic year. Studying psychology. Living in a 
dorm at ___. Stable friend group there; knows some friends from 
home and made some new friends already. Patient grew up in 
___. Parents live there now, patient has been living 
with them since ___.
.
SUBSTANCE USE HISTORY:
Per Dr. ___ ED Initial Psychiatry 
Consult note with revision/supplementation as provided per 
history at time of admission to unit.
 - EtOH: never 
 - Tobacco: never 
 - Cannabis: Marijuana ___, At night, 
 - Illicits: never 
.
FORENSIC HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Per Dr. ___ ED Initial Psychiatry 
Consult note with revision/supplementation as provided per 
history at time of admission to unit.
-Paternal side relatives w/ ___
-Maternal side Alcohol Use Disorder
 
Physical Exam:
VITAL SIGNS:
T: 98.0
BP: 92/60 
HR: 87 
RR: 18 
spO2: 97  
.  
EXAM:
General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes, 
oropharynx clear. No scleral icterus
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no 
murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing. Lungs clear to 
auscultation bilaterally. No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.
 -Extremities: Warm and well-perfused. No edema of the limbs.
 -Skin: No rashes or lesions noted.
.
Neurological:
-Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils equal round 
 ---III, IV, VI: EOMI without nystagmus
 ---V: Masseter intact symmetrically and bilaterally
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: deferred
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Strength ___ in 
deltoids, biceps, triceps, quadriceps, hamstrings,
 -Sensory: deferred
 -DTRs: deferred
 ___: Normal on finger to nose test, no intention 
tremor noted
 -Gait/station: normal station; gait not observed directly
Absence of rigidity or spasticity
Absence of resting tremor
Absence of asterixis
.
Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: WORLD backwards w/ 0 errors
 -Orientation: ___, ___, summer
 -Executive function: test of ideomotor apraxia intact to brush 
teeth, comb hair
 -Memory: Violet, Church, ___
 -Fund of knowledge: Consistent with education; intact to last 3 
presidents
 -Calculations: deferred
 -Abstraction: Interprets "the grass is always greener on the 
other side" as "the other perspective looks better but this is 
not always true"
 -Visuospatial: right thumb to left ear
 -Language: Native ___ speaker, no paraphasic errors,
 appropriate to conversation
.
Mental Status:
 -Appearance/behavior: woman appearing stated age, in hospital 
gown, sitting in chair w/ notable psychomotor agitation of right 
upper and lower extremity. appears visibly anxious, makes good 
eye contact. 
 -Attitude: Cooperative, engaged, friendly
 -Mood: "low"
 -Affect: Mood-congruent, dysphoric and anxious, mildly 
restricted range, appropriate to situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose 
associations
 -Thought Content:
 ---Safety: SI+
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current 
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
 -Insight: Limited
 -Judgment: Limited
 
Pertinent Results:
___ 02:30PM BLOOD WBC-7.8 RBC-3.87* Hgb-10.9* Hct-33.6* 
MCV-87 MCH-28.2 MCHC-32.4 RDW-14.1 RDWSD-43.9 Plt ___
___ 02:30PM BLOOD Glucose-105* UreaN-12 Creat-0.6 Na-142 
K-3.6 Cl-107 HCO3-21* AnGap-14
___ 02:30PM BLOOD ALT-10 AST-15 AlkPhos-60 TotBili-0.2
___ 02:30PM BLOOD Albumin-4.2 Calcium-9.2 Phos-3.8 Mg-1.8
___ 02:30PM BLOOD TSH-1.6
___ 02:30PM BLOOD HCG-<5
___ 02:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG

___ 06:46AM BLOOD %HbA1c-5.0 eAG-97
___ 06:46AM BLOOD Triglyc-49 HDL-40* CHOL/HD-3.2 LDLcalc-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was also placed on 15 minute 
checks status on admission which was escalated to 5 minute 
checks at time because of self-harming behavior and remained on 
that level of observation throughout while being unit 
restricted.
.
2. PSYCHIATRIC:
Ms. ___ is a ___ year old female w/ GAD, depression, 
anorexia, and self reported diagnosis of borderline personality 
disorder who presented with worsening sense of hopelessness and 
increasing frequency of suicidal ideation resulting in a suicide 
attempt by overdosing on ___ pills of Trazadone 50mg earlier 
today. Psychiatry was consulted for safety assessment and 
treatment recommendations. Ms. ___ was presenting following 
acutely worsening depressive and anxiety symptoms in setting of 
recent psychosocial stressors. Despite excellent social support 
and outpatient resources (therapist) patient endorsed ongoing 
feelings of hopelessness and worthlessness in setting of acutely 
worsening symptoms. Feelings of intense hopelessness led patient 
to consume multiple pills on day of admission with intention of 
going to sleep and not waking up. Collateral was concerning for 
patient's ongoing safety at home and inability to function 
independently in a stressful environment at time of admission. 
Mental status exam was notable
for low mood congruent with a dysphoric tearful affect that is 
restricted in range. Patient reported ongoing suicidal ideation 
and had limited insight and judgment.  Because of this, at time 
of admission patient was found to meet ___ criteria 
required involuntary hospitalization for ongoing crisis 
management and acute stabilization, medication management as 
indicated, coordination with outpatient providers, and aftercare 
planning.
.
Differential diagnosis includes generalized anxiety disorder vs. 
unspecified mood disorder.  However, the diagnosis which most 
pertains to the patient's admission is likely a diagnosis of 
borderline personality disorder.  While admitted, patient 
demonstrated many behaviors consistent with this diagnosis 
including her efforts to avoid abandonment by the treatment 
team, alternating between idealizing and evaluating others, 
unstable sense of self demonstrated by her perceived inability 
and decision making and other such tasks, impulsivity 
specifically with regards to eating related behaviors, chronic 
suicidality, affective instability, recurrent self harming 
behaviors.  Early in admission patient was able to identify a 
few things which were helpful for anxiety, but she was able to 
say that her buspirone was somewhat helpful.  Because of this 
her buspirone was increased to a total of 20 mg twice a day by 
time of discharge.  Overall patient found this increase in dose 
to be somewhat helpful for anxiety and was well-tolerated.  To 
provide further affect of stability, patient was also started on 
lamotrigine at 25 mg nightly.  Patient tolerated this medication 
well without any reported side effects.  Further consideration 
and outpatient treatment should be given to increasing this dose 
if patient finds it helpful.  The starting dose was initiated on 
___.  By time of discharge, patient demonstrated 
improvements in her mood, with brightening of her affect, and 
cessation of active suicidal ideation.  Patient's 
hospitalization was quite notable for intermittent suicidality 
and thoughts of self-harm, with intermittent self harming 
behavior via scratching on forearms.
.
3. SUBSTANCE USE DISORDERS:
None
.
4. MEDICAL
None
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  Patient 
often abstained from attending group therapy sessions, and was 
often isolate of remaining in her room throughout much of the 
day.  She would interact intermittently with select peers in the 
day room.  The
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Collateral from patient's primary psychiatrist consistent with 
primary diagnosis of borderline personality disorder with 
recommendation for intensive outpatient treatment.  Collateral 
from patient's parents significant for reported history of 
decompensation of self-harming behavior when in inpatient 
setting and further emotional dysregulation.  The patient's 
parents were invited onto the unit for several family meetings 
throughout the patient's admission, and parents had the 
opportunity to ask questions about diagnostic clarification and 
treatment planning.  They were present on day of discharge and 
in agreement with discharge plan.
.
#) INTERVENTIONS
- Medications: Increase of buspirone dose and initiation of 
lamotrigine
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Provided with follow-up 
appointments and partial hospitalization program intake
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Encourage utilization of DBT skills
-Guardianships: Not applicable
.
INFORMED CONSENT: Lamotrigine
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting this medication 
including life-threatening rash, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.
.
On ___, Ms. ___ shared that she is ready for the discharge. 
she reported that anxiety is at a manageable level (___). She 
shared that she slept well last night (from 11pm to 8am). She 
shared that she doesn't have any suicidal thoughts: "I am not 
having any". Ms. ___ shared about positive plans for future: she 
will have meeting with therapist in the afternoon. She plans to 
go to the B-day upcoming weekend. Pt was educated about risks of 
ETOH. Specifically, we discussed concern of increased 
impulsivity when intoxicated. Also, discussed negative effect on 
mood, cognition, gen-medical health. Pt expressed formal 
understanding.
Ms. ___ shared that her father will pick her up upon discharge 
from the unit.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon worsening depressed 
mood with suicidal ideation and suicide attempt.  Her static 
factors noted at that time include history of suicide attempt, 
chronic mental illness, recent discharge from an inpatient 
psychiatric unit, Caucasian race, age, LGBT identity, and the 
presence of a concurrent personality disorder.  At time of 
admission patient was found to be at acutely elevated risk of 
harm to herself even her modifiable risk factors of her ongoing 
suicidal ideation, hopelessness, recklessness, social 
withdrawal, limited coping skills, impulsivity, and her ongoing 
thoughts of self-harm.  These modifiable risk factors were 
addressed via acute stabilization and therapeutic milieu, 
medication adjustment, provision of individual and group 
therapy, and aftercare planning.  Finally, the patient is being 
discharged with many protective risk factors, including her 
future oriented viewpoint, sense of responsibility to family, 
reality testing ability, good problem solving skills, positive 
therapeutic relationships with outpatient providers, lack of 
suicidal ideation, and strong social supports. Overall, at the 
time of discharge, the patient is not at an acutely elevated 
risk of self-harm nor danger to others due to acutely 
decompensated psychiatric illness. Thus, I feel the patient does 
not meet criteria for involuntary treatment. 
.
Her prognosis for this patient remains guarded at this time as 
pt has several static risk factors. However, her prognosis is 
likely to improve if pt chooses to follow up on treatment 
recommendations.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 7.5 mg PO BID 
2. BusPIRone 15 mg PO BID 
3. Escitalopram Oxalate 10 mg PO QAM 
4. Benztropine Mesylate 0.5 mg PO BID 
5. FoLIC Acid 1 mg PO DAILY 
6. LORazepam 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q4H:PRN anxiety  
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild NOT relieved by 
Acetaminophen  
3.  LamoTRIgine 25 mg PO QHS 
4.  BusPIRone 20 mg PO BID 
5.  ARIPiprazole 7.5 mg PO BID  
6.  Benztropine Mesylate 0.5 mg PO BID  
7.  Escitalopram Oxalate 10 mg PO QAM  
8.  FoLIC Acid 1 mg PO DAILY  
9.  LORazepam 0.5 mg PO BID:PRN anxiety  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
General anxiety disorder.
Major depressive disorder, recurrent, moderate.
Eating disorder, not otherwise specified.
Borderline Personality Disorder

 
Discharge Condition:
Vitals:
Temp: 97.2 PO BP: 102/71 HR: 84 RR: 16 O2 sat: 98%  

Mental Status:
-Appearance: ___ female appearing stated age, wearing
casual clothing, good hygiene and grooming, no acute distress.
-Behavior: Sitting up, good eye contact, no psychomotor 
agitation
or retardation 
-Attitude: Cooperative
-Mood: 'better'. Reports that anxiety is still present but 
better (placed ___
-Affect: Mood-congruent, restricted range, no tearfulness, 
exchanged smile
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: reports feeling safe today. Denies S/I. Shared about 
positive plans for future (seeing psychiatrist later today, 
going to B-day party tomorrow, appointment with therapist on 
___.
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli

Ms. ___ was engaged in discussion about her d/c plan. Reported 
feeling ready for discharge today. Writer has met with Ms. 
___ and ___ father who came to pick her up.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___